US07888349B2
Triethylamine (58.2 g, 575 mmol) and 4-chloro-3-nitroquinoline (80.0 g, 384 mmol) were added to a solution of tert-butyl N-(2-aminoethyl)carbamate (67.6 g, 422 mmol) in DMF (300 mL), and the reaction was stirred overnight at ambient temperature. Water (600 mL) was added, and the resulting mixture was stirred for one hour. A precipitate formed and was isolated by filtration, washed with water (3×150 mL), and dried for two days in a vacuum oven at 45° C. to provide 125.36 g of tert-butyl 2-[(3-nitroquinolin-4-yl)amino]ethylcarbamate as a yellow solid.

reactant | Triethylamine | 575 mmol, 58.2 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitroquinoline | 384 mmol, 80.0 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | tert-butyl N-(2-aminoethyl)carbamate | 422 mmol, 67.6 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | Water | 600 mL | O | H2O
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-[(3-nitroquinolin-4-yl)amino]ethylcarbamate | 125.36 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H20N4O4
